US07790728B2
5-(3-Fluoropyridin-4-yl)-2-morpholin-4-yl-6-pyridin-3-yl-1H-imidazo[4,5-b]pyrazine
A mixture of 5-(3-fluoropyridin-4-yl)-2-(methylsulfonyl)-6-pyridin-3-yl-1H-imidazo[4,5-b]pyrazine (0.060 g, 0.16 mmol) and morpholine (1.5 mL) were heated to 120° C. in a sealed tube. After 3 hours, the mixture was evaporated and the residue was purified by silica gel chromatography eluting with dichloromethane/methanol (95:5) to give the title compound (0.029 g, 48%) as a white solid.

reactant | 5-(3-fluoropyridin-4-yl)-2-(methylsulfonyl)-6-pyridin-3-yl-1H-imidazo[4,5-b]pyrazine | 0.16 mmol, 0.060 g | FC=1C=NC=CC1C=1N=C2C(=NC1C=1C=NC=CC1)NC(=N2)S(=O)(=O)C | C16H11FN6O2S
reactant | morpholine | 1.5 mL | N1CCOCC1 | C4H9NO
product | 5-(3-Fluoropyridin-4-yl)-2-morpholin-4-yl-6-pyridin-3-yl-1H-imidazo[4,5-b]pyrazine | 0.029 g, 48% | FC=1C=NC=CC1C=1N=C2C(=NC1C=1C=NC=CC1)NC(=N2)N2CCOCC2 | C19H16FN7O
